US04943568
Ethyl 2-ethylidene-4-bromo-3-oxovalerate
A solution of 100 g (0.45 mol) of ethyl 4-bromo-3-oxovalerate in 100 ml of absolute methylene chloride is cooled to -20° C. under nitrogen, and 50 g (1.12 mol) of acetaldehyde are added. 1 g of piperidine, dissolved in 10 ml of methylene chloride, is then added dropwise at -20° C.

reactant | ethyl 4-bromo-3-oxovalerate | 0.45 mol, 100 g | BrC(C(CC(=O)OCC)=O)C | C7H11BrO3
reactant | acetaldehyde | 1.12 mol, 50 g | C(C)=O | C2H4O
reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-ethylidene-4-bromo-3-oxovalerate | C(C)=C(C(=O)OCC)C(C(C)Br)=O | C9H13BrO3
